datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCC(C)CC([NH3+])C(=O)[O:21][H:20].Nc1c2ccccc2[n:10]c2cccc([N+](=O)[O-])c12>>CCC(C)CC([NH3+])C(=O)[O-:21].Nc1c2ccccc2[n+:10]([H:20])c2cccc([N+](=O)[O-])c12 10=20;20,21=21",
"CCOc1cccc[n+]1[O:21][H:20].CC[N:10](CC)CCCCNc1cc[nH+]c2ccccc12>>CCOc1cccc[n+]1[O-:21].CC[N+:10](CC)(CCCCNc1cc[nH+]c2ccccc12)[H:20] 10=20;20,21=21",
"C[N+](C)(C)c1ccc([O-:10])c([N+](=O)[O-])c1.O=P1([O:21][H:20])CCCC1>>C[N+](C)(C)c1ccc([O:10][H:20])c([N+](=O)[O-])c1.O=P1([O-:21])CCCC1 10=20;20,21=21",
"CCCNCC[NH:10]CCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCNCC[NH+:10](CCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CNCCC[NH:10]C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CNCCC[NH+:10](C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"O=C(c1nsc2ccccc12)[O-:10].c1ccc(COc2cc[n+]([O:21][H:20])cc2)cc1>>O=C(c1nsc2ccccc12)[O:10][H:20].c1ccc(COc2cc[n+]([O-:21])cc2)cc1 10=20;20,21=21",
"[H:20][NH+:21]1CCCCC1.C1=C(C=C(C(=C1)[CH-:10]C#N)[N+](=O)[O-])C#N>>[H:20][CH:10](C#N)C1=CC=C(C=C1[N+](=O)[O-])C#N.C1CC[NH:21]CC1 10=20;20,21=21",
"Fc1ccc([N-:10]C(=S)c2ccc(Cl)cc2)cc1.OCCNc1nc(NCCO)[n+:21]([H:20])c(NCCO)n1>>Fc1ccc([N:10](C(=S)c2ccc(Cl)cc2)[H:20])cc1.OCCNc1nc(NCCO)[n:21]c(NCCO)n1 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=CC([N+](=O)[O-])=C2)[H:20])=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=CC([N+](=O)[O-])=C2)=C1 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)[N-]O.NC(=O)c1cc[n+](COC[n+]2ccccc2/C=N/[O:21][H:20])cc1>>C/C(=N\[O:10][H:20])C(=O)[N-]O.NC(=O)c1cc[n+](COC[n+]2ccccc2/C=N/[O-:21])cc1 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1ccc([O-:10])c2ncccc12.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>Nc1ccc([O:10][H:20])c2ncccc12.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CCC(C)C([NH3+])C(=O)[O:21][H:20].c1ccc(CSc2cccc[n:10]2)cc1>>CCC(C)C([NH3+])C(=O)[O-:21].c1ccc(CSc2cccc[n+:10]2[H:20])cc1 10=20;20,21=21",
"Cc1cccc2[nH]c[n+:21]([H:20])c12.O=C(CSc1ccccc1)[O-:10]>>Cc1cccc2[nH]c[n:21]c12.O=C(CSc1ccccc1)[O:10][H:20] 10=20;20,21=21",
"CC(C[N:10]1CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CCC(=O)[N:21](Br)[H:20]>>CC(C[N+:10]1([H:20])CCCCC1)C(C#N)(c1ccccc1)c1ccccc1.CCC(=O)[N-:21]Br 10=20;20,21=21",
"NC(CC[NH3+])=[N+:21](O)[H:20].c1cnc2ccc([O-:10])cc2c1>>NC(CC[NH3+])=[N:21]O.c1cnc2ccc([O:10][H:20])cc2c1 10=20;20,21=21",
"Cc1ccccc1[O-:10].Nc1nc(N)[n+:21]([H:20])c2nc[nH]c12>>Cc1ccccc1[O:10][H:20].Nc1nc(N)[n:21]c2nc[nH]c12 10=20;20,21=21",
"C=C[C@H]1C[N+:21]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O-:10])cc4OC3=O)nc2c1>>C=C[C@H]1C[N:21]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccc(OC)cc12.Cc1cc(OS(=O)(=O)[O-])c2oc(C3=Cc4ccc([O:10][H:20])cc4OC3=O)nc2c1 10=20;20,21=21",
"CC[N+:21](CC)(CCSC)[H:20].CC[N-:10][N+](=O)[O-]>>CC[N:10]([N+](=O)[O-])[H:20].CC[N:21](CC)CCSC 10=20;20,21=21",
"[NH3+]C(Cc1c[nH]c[n:10]1)C(=O)[O-].c1ccc(-c2ccc(NCC[NH+]3CCOCC3)[n+:21]([H:20])n2)cc1>>[NH3+]C(Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-].c1ccc(-c2ccc(NCC[NH+]3CCOCC3)[n:21]n2)cc1 10=20;20,21=21",
"Nc1ccc2ccn[n:10]c2c1.c1cnc2c(c1)[nH]c[n+:21]2[H:20]>>Nc1ccc2ccn[n+:10]([H:20])c2c1.c1cnc2c(c1)[nH]c[n:21]2 10=20;20,21=21",
"C1CNCCSCC[NH:10]C1.O=C(C1=CC=CC=C1)[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20]>>C1CNCCSCC[NH+:10]([H:20])C1.O=C(C1=CC=CC=C1)[C-:21](C1=CC=CC=C1)[N+](=O)[O-] 10=20;20,21=21",
"CC(C)[NH:10]CC(O)c1cccc(N)c1.Cc1ccc(C(=O)N(C)[O:21][H:20])cc1>>CC(C)[NH+:10](CC(O)c1cccc(N)c1)[H:20].Cc1ccc(C(=O)N(C)[O-:21])cc1 10=20;20,21=21",
"CCCCC([NH3+])C(=O)[O:21][H:20].CC[Si](C)(C)C[NH2:10]>>CCCCC([NH3+])C(=O)[O-:21].CC[Si](C)(C)C[NH2+:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OC(C)C[N:10](CC)CC.CC1CC(=O)N([O:21][H:20])C1(C)C>>C=C(C)C(=O)OC(C)C[N+:10](CC)(CC)[H:20].CC1CC(=O)N([O-:21])C1(C)C 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CC(O)C[N+:21](Cc1ccccc1)(CC(C)O)[H:20].O=Cc1c(Cl)cccc1[O-:10]>>CC(O)C[N:21](Cc1ccccc1)CC(C)O.O=Cc1c(Cl)cccc1[O:10][H:20] 10=20;20,21=21",
"C=CC(C)(CC)[N:10](C)C(C)C.O=C(c1cccc(F)c1)[O:21][H:20]>>C=CC(C)(CC)[N+:10](C)(C(C)C)[H:20].O=C(c1cccc(F)c1)[O-:21] 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)CC.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C=CC(C)(C)[NH+:10](C(C)(C)CC)[H:20].CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C=CC[NH:10]CC=C.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=CC[NH+:10](CC=C)[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC#CCC(=O)[O:21][H:20].O=[N+]([O-])c1cnc([O-])[n:10]c1[O-]>>CC#CCC(=O)[O-:21].O=[N+]([O-])c1cnc([O-])[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"CC(C[N:10](C)C)C(C#N)(c1ccccc1)c1ccccc1.N#Cc1cccc(-c2nnn[n:21]2[H:20])c1>>CC(C[N+:10](C)(C)[H:20])C(C#N)(c1ccccc1)c1ccccc1.N#Cc1cccc(-c2nnn[n-:21]2)c1 10=20;20,21=21",
